US03983247
2.63 g. of 3,7,11-trimethyl-11-(2-propynyloxy)-2,4-dodecadienoic acid are dissolved in 40 ml. of methyl ethyl ketone and then treated with 2.45 g. of potassium carbonate and 6.1 g. of isopropyl iodide. The mixture is heated at reflux under a nitrogen atmosphere for 6 hours, then poured on to ice-water and extracted with ether. The extracts are washed with water and saturated sodium chloride solution, dried and evaporated. By chromatography on silica gel, there is obtained pure 3,7,11-trimethyl-11-(2-propynyloxy)-2,4-dodecadienoic acid isopropyl ester; boiling point (bulb-tube) = 122°C/0.023 mmHg; nD25 = 1.4940.

reactant | 3,7,11-trimethyl-11-(2-propynyloxy)-2,4-dodecadienoic acid | CC(=CC(=O)O)C=CCC(CCCC(C)(OCC#C)C)C | C18H28O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl iodide | C(C)(C)I | C3H7I
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | 3,7,11-trimethyl-11-(2-propynyloxy)-2,4-dodecadienoic acid isopropyl ester | C(C)(C)OC(C=C(C=CCC(CCCC(C)(OCC#C)C)C)C)=O | C21H34O3
